US06620600B2
To a 2 L 4-necked round bottom flask that was equipped with an overhead stirrer, an addition funnel, a condenser and a temperature-probe, was added the solution of sodium ethoxide/ethanol (21% wt. %, 161.8 g) at 20-25° C. under nitrogen. Ethyl 2-benzylacetoacetate (103.1 g, 0.454 mole) was added dropwise. The resulting solution was stirred at 20-25° C. for 30 minutes. The reaction mixture was then cooled to −35° C. with a dry ice/acetone bath. N-Bromosuccinimide (NBS; 97.95 g, 0.545 mole) was added portion-wise over 30 minutes. After the addition was over, the reaction mixture was stirred at −35° C. for 1 hr before warming up to 20-25° C. and it was stirred for an additional 2 hrs. The reaction was then quenched with water (400 mL) and ethyl acetate (600 mL) was added. The layers were separated and the product was extracted from aqueous layer with ethyl acetate (400 mL×3). The combined organic layers was washed with saturated sodium bicarbonate twice (400 mL×2), water twice (400 mL×2) and brine (500 mL). After the removal of solvent, the product (crude, 132 g) was distilled under reduced pressure. Ethyl 2-bromo-3-benzenepropanoate (97.7 g) was obtained at yield 83.7%.

reactant | sodium ethoxide ethanol | 161.8 g | [O-]CC.[Na+].C(C)O
reactant | Ethyl 2-benzylacetoacetate | 0.454 mole, 103.1 g | C(C1=CC=CC=C1)C(C(=O)OCC)C(=O)C | C13H16O3
reactant | N-Bromosuccinimide | 0.545 mole, 97.95 g | BrN1C(CCC1=O)=O | C4H4BrNO2
product | Ethyl 2-bromo-3-benzenepropanoate | 97.7 g, yield 83.7% | BrC1=CC=CC=C1CCC(=O)OCC | C11H13BrO2
